US05177235
Phenyltributylsilane is prepared by the general procedure of Example 1 using tri-n-butylaluminum and phenyltrichlorosilane.

reactant | tri-n-butylaluminum | C(CCC)[Al](CCCC)CCCC
reactant | phenyltrichlorosilane | C1(=CC=CC=C1)[Si](Cl)(Cl)Cl | C6H5Cl3Si
product | Phenyltributylsilane | C1(=CC=CC=C1)[Si](CCCC)(CCCC)CCCC | C18H32Si
